US08058276B2
Step 19.5: Hexanoic acid 6-chloro-pyrimidin-4-ylmethyl ester
To a solution of 915 mg (4.08 mMol) hexanoic acid 6-hydroxy-pyrimidin-4-ylmethyl ester, 1.48 g (8.98 mMol) Et4NCl and 698 μl (5.44 mMol) N,N-dimethylaniline in 30 ml of acetonitrile, 3.73 ml (40.8 mMol) POCl3 are added. After stirring for 1 h at 60° C., the cooled solution is concentrated in vacuo. The residue is re-dissolved in EtOAc and water, the aq. layer separated off and extracted twice with EtOAc. The organic phases are washed with water, sat. NaHCO3 and brine, dried (Na2SO4) and concentrated, yielding the title compound as an oil: MS: [M+1]+=243/245; TLC(CH2Cl2): Rf=0.20.

reactant | hexanoic acid 6-hydroxy-pyrimidin-4-ylmethyl ester | 4.08 mMol, 915 mg | OC1=CC(=NC=N1)COC(CCCCC)=O | C11H16N2O3
reactant | N,N-dimethylaniline | 5.44 mMol, 698 μl | CN(C1=CC=CC=C1)C | C8H11N
reactant | POCl3 | 40.8 mMol, 3.73 ml | O=P(Cl)(Cl)Cl | Cl3OP
catalyst | Et4NCl | 8.98 mMol, 1.48 g | [N+](CC)(CC)(CC)CC.[Cl-]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | Hexanoic acid 6-chloro-pyrimidin-4-ylmethyl ester | ClC1=CC(=NC=N1)COC(CCCCC)=O | C11H15ClN2O2
